US05639987
Synthesis of bismuth β-resorcylate (1/2 salt)
A hydroalcoholic mixture consisting of 600 ml of distilled water and 600 ml of ethanol is made up in the same reactor as in Example 1 and then 46.24 g of β-resorcylic acid, that is 0.3 moles are introduced into it. The mixture is heated to 50° C. with stirring. The acid dissolves completely. 69.9 g of bismuth oxide, that is 0.3 gram-atoms of bismuth, are then introduced, as according to Example 1. The suspension is heated to 80° C. and kept stirred at this temperature for approximately 5 hours, after which the suspension is treated as according to Example 1: filtration followed by vacuum-drying.

reactant | water | 600 ml | O | H2O
reactant | β-resorcylic acid | 46.24 g | C(C=1C(O)=CC(O)=CC1)(=O)O | C7H6O4
reactant | bismuth oxide | 69.9 g | [Bi]=O
reactant | bismuth | [Bi] | Bi
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | bismuth β-resorcylate | C(C=1C(O)=CC(O)=CC1)(=O)[O-].[Bi+3].C(C=1C(O)=CC(O)=CC1)(=O)[O-].C(C=1C(O)=CC(O)=CC1)(=O)[O-] | InChI=1S/3C7H6O4.Bi/c3*8-4-1-2-5(7(10)11)6(9)3-4;/h3*1-3,8-9H,(H,10,11);/q;;;+3/p-3
